US05158947
REFERENCE EXAMPLE 3 Preparation of 4-(5-bromopentyl)-2,3,4,5-tetrahydro-1,4-benzothiazepine-3,5-dione
In 20 ml of DMF was dissolved 102 mg of 2,3,4,5-tetrahydro-1,4-benzothiazepine-3,5-dione and the solution then ice-cooled. Then, to the resulting solution were added 0.116 ml (1.5 equivalent) of 1,5-dibromopentane and 27.4 mg (1.2 equivalent) of a 60% sodium hydride oil dispersion and the mixture was stirred for 2 hours with ice-cooling. Thereafter, the reaction solution was reacted and/or treated and purified in the same manner as in Reference Example 1 to give 79.2 mg (yield: 42.4%) of the title compound.

reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine-3,5-dione | 102 mg | S1CC(NC(C2=C1C=CC=C2)=O)=O | C9H7NO2S
reactant | 1,5-dibromopentane | 0.116 ml, 1.5 equivalent | BrCCCCCBr | C5H10Br2
reactant | sodium hydride oil dispersion | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(5-bromopentyl)-2,3,4,5-tetrahydro-1,4-benzothiazepine-3,5-dione | 79.2 mg, yield: 42.4% | BrCCCCCN1C(CSC2=C(C1=O)C=CC=C2)=O | C14H16BrNO2S
